US06916822B2
(a) 1-(tert-Butoxycarbonyl)-4-(1,2,3,4-tetrahydroquinolin-1-yl)piperidine
1-(tert-Butoxycarbonyl)-4-piperidone (800 mg) was dissolved in dichloroethane (16 ml), added with 1,2,3,4-tetrahydroquinoline (0.50 ml), sodium triacetoxyborohydride (1.7 g) and acetic acid (2.3 ml) and stirred at room temperature for 24 hours. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate (20 ml) and extracted twice with ethyl acetate (20 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=10:1) to obtain 90.6 mg of the title compound. Yield: 7%.

reactant | 1-(tert-Butoxycarbonyl)-4-piperidone | 800 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1,2,3,4-tetrahydroquinoline | 0.50 ml | N1CCCC2=CC=CC=C12 | C9H11N
reactant | sodium triacetoxyborohydride | 1.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 16 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 2.3 ml | C(C)(=O)O | C2H4O2
product | 1-(tert-Butoxycarbonyl)-4-(1,2,3,4-tetrahydroquinolin-1-yl)piperidine | 90.6 mg, Yield: 7% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCCC2=CC=CC=C12 | C19H28N2O2
